US09145441B2
Compound 96b. 7-Bromo-2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-quinazoline
A solution of ammonia in ethanol (2 M, 14 mL, 28 mmol) was added to N-(5-bromo-2-formyl-phenyl)-2-(tert-butyl-dimethyl-silanyloxy)-propionamide (0.5 g, 1.36 mmol). The mixture was heated in a microwave reactor at 150° C. for 2 h. A second solution of ammonia in ethanol (2 M, 14 mL, 28 mmol) was added to N-(5-bromo-2-formyl-phenyl)-2-(tert-butyl-dimethyl-silanyloxy)-propionamide (1.0 g, 2.72 mmol). The mixture was heated in a microwave reactor at 150° C. for 2 h. The two resultant solutions were combined and evaporated and the residue purified by silica gel chromatography using iso-hexanes/dichloromethane 1:1 to 1:3 to 0:1 to yield the title compound (1.34 g, 94%) as a yellow gum. 1H NMR (300 MHz, CDCl3) δ 0.08 (s, 6H), 0.91 (s, 9H), 1.64 (d, J=6.7 Hz, 3H), 5.22 (q, J=6.5 Hz, 1H), 7.71-7.83 (m, 2H), 8.26 (s, 1H), 9.40 (s, 1H). LCMS (m/z) 367.0, 369.0 [M+H], Tr=4.00 min.

reactant | ammonia | N | H3N
reactant | ethanol | 28 mmol, 2 M, 14 mL | C(C)O | C2H6O
reactant | N-(5-bromo-2-formyl-phenyl)-2-(tert-butyl-dimethyl-silanyloxy)-propionamide | 1.36 mmol, 0.5 g | BrC=1C=CC(=C(C1)NC(C(C)O[Si](C)(C)C(C)(C)C)=O)C=O | C16H24BrNO3Si
reactant | ethanol | 28 mmol, 2 M, 14 mL | C(C)O | C2H6O
reactant | N-(5-bromo-2-formyl-phenyl)-2-(tert-butyl-dimethyl-silanyloxy)-propionamide | 2.72 mmol, 1.0 g | BrC=1C=CC(=C(C1)NC(C(C)O[Si](C)(C)C(C)(C)C)=O)C=O | C16H24BrNO3Si
product | 7-Bromo-2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-quinazoline | 1.34 g, 94% | BrC1=CC=C2C=NC(=NC2=C1)C(C)O[Si](C)(C)C(C)(C)C | C16H23BrN2OSi
